US08258323B2
(S)-6-fluoro-3,4-dihydro-2-((R)-oxiran-2-yl)-2H-chromene (30 mg, 0.154 mmol) was dissolved in methanol (2 ml) and kept under stirring. benzylamine (40 mg, 0.374 mmol) was added and the reaction mixture left to stir. After checking the reaction outcome, the solution was concentrated under reduced pressure and the crude residue further dried at 30° C. in vacuo to furnish 30 mg of (R)-2-(phenylmethylimino)-1-((S)-6-fluoro-3,4-dihydro-2H-chromen-2-yl)ethanol as a white solid (64% yield).

reactant | (S)-6-fluoro-3,4-dihydro-2-((R)-oxiran-2-yl)-2H-chromene | 0.154 mmol, 30 mg | FC=1C=C2CC[C@H](OC2=CC1)[C@@H]1OC1 | C11H11FO2
reactant | benzylamine | 0.374 mmol, 40 mg | C(C1=CC=CC=C1)N | C7H9N
solvent | methanol | 2 ml | CO | CH4O
product | (R)-2-(phenylmethylimino)-1-((S)-6-fluoro-3,4-dihydro-2H-chromen-2-yl)ethanol | 30 mg, 64% yield | C1(=CC=CC=C1)CN=C[C@@H](O)[C@H]1OC2=CC=C(C=C2CC1)F | C18H18FNO2
